US06545017B1
Sodium hydride (1.196 g of 60%, 29.9 mmol) was added to a solution of phenol (2.81 g, 29.9 mol) in diglyme (40 mL). The mixture was stirred for 15 minutes after the cessation of gas evolution. A solution of N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine (10.9 g, 27.2 mmol) in hot diglyme was added to the phenoxide mixture. The reaction mixture was heated at reflux for 1.5 hours, cooled to ambient temperature, and then concentrated to remove the diglyme (60° C. bath, 21 Pa). The residue was purified by column chromatography eluting first with 1% methanol in dichloromethane to remove residual diglyme and then with 5% methanol in dichloromethane to elute product. The fractions were concentrated to provide 5.91 g of N-[2-(1-benzylpiperidin-4-yl)ethyl]-2,3-dimethyl-5-nitro-6-phenoxypyridin-4-amine as an orange-brown oil which solidified on standing.

reactant | Sodium hydride | 29.9 mmol, 1.196 g | [H-].[Na+]
reactant | phenol | 29.9 mol, 2.81 g | C1(=CC=CC=C1)O | C6H6O
reactant | N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine | 27.2 mmol, 10.9 g | C(C1=CC=CC=C1)N1CCC(CC1)CCNC1=C(C(=NC(=C1C)C)Cl)[N+](=O)[O-] | C21H27ClN4O2
reactant | phenoxide | [O-]C1=CC=CC=C1
solvent | diglyme | 40 mL | COCCOCCOC | C6H14O3
product | N-[2-(1-benzylpiperidin-4-yl)ethyl]-2,3-dimethyl-5-nitro-6-phenoxypyridin-4-amine | 5.91 g | C(C1=CC=CC=C1)N1CCC(CC1)CCNC1=C(C(=NC(=C1[N+](=O)[O-])OC1=CC=CC=C1)C)C | C27H32N4O3
